US08383643B2
2-(5-(2-(4-(4-Fluorophenyl)spiro[chromene-2,4′-piperidine]-1′-yl)thiazol-5-yl)-2H-tetrazol-2-yl)acetic acid
Step 3 Ethyl 2-(5-(2-(4-(4-fluorophenyl)spiro[chromene-2,4′-piperidine]-1′-yl)thiazol-5-yl)-2H-tetrazol-2-yl)acetate In a pressure vial, a mixture of 4-(4-fluorophenyl)spiro[chromene-2,4′-piperidine] (128 mg, 0.433 mmol), Intermediate 4 (175 mg, 0.550 mmol) and K2CO3 (127 mg, 0.919 mmol) were suspended in dry DME (2 mL). The vial was sealed and the mixture was stirred under N2 at an external temperature of 110° C. for 2 h. The reaction mixture was then cooled to room temperature, and diluted with DCM/methanol and concentrated under reduced pressure in the presence of silica gel. The resulting solid residue was purified by Combiflash™ chromatography (SiO2 (12 g), eluting with 3-10% EtOAc/hexanes) to afford the title compound as a solid.

reactant | Ethyl 2-(5-(2-(4-(4-fluorophenyl)spiro[chromene-2,4′-piperidine]-1′-yl)thiazol-5-yl)-2H-tetrazol-2-yl)acetate | FC1=CC=C(C=C1)C1=CC2(CCN(CC2)C=2SC(=CN2)C=2N=NN(N2)CC(=O)OCC)OC2=CC=CC=C12 | C27H25FN6O3S
reactant | 4-(4-fluorophenyl)spiro[chromene-2,4′-piperidine] | 0.433 mmol, 128 mg | FC1=CC=C(C=C1)C1=CC2(CCNCC2)OC2=CC=CC=C12 | C19H18FNO
reactant | K2CO3 | 0.919 mmol, 127 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | DCM methanol | C(Cl)Cl.CO
product | 2-(5-(2-(4-(4-Fluorophenyl)spiro[chromene-2,4′-piperidine]-1′-yl)thiazol-5-yl)-2H-tetrazol-2-yl)acetic acid | FC1=CC=C(C=C1)C1=CC2(CCN(CC2)C=2SC(=CN2)C=2N=NN(N2)CC(=O)O)OC2=CC=CC=C12 | C25H21FN6O3S
